US09085606B2
Preparation of (S)-ethyl 3-(2-((tert-butoxycarbonyl)amino)acetamido)-3-(3,5-di-tert-butylphenyl)propanoate
To a solution of a mixture of (S)-ethyl 3-amino-3-(3,5-di-tert-butylphenyl)propionate hydrochloride (112.0 mg, 0.33 mmol) and Boc-Gly-Osu (95.0 mg, 0.35 mmol) in anhydrous DMF was added triethylamine (62 μL, 0.45 mmol) and the reaction mixture was stirred at room temperature under nitrogen atmosphere overnight to give a colorless solution. The solvent was evaporated in-vacuo and the residue was partitioned between ethyl acetate (25 mL), water (25 mL) and saturated NaHCO3 solution (10 mL). The organic layer was removed, washed with water (1×10 mL), dried over anhydrous Na2SO4, filtered and evaporated in vacuo to afford a cream foamy solid (163.4 mg). LC-MS analysis of the solid shows the desired product's mass: m/z 463 (M+H) and m/.z 485 (M+Na); Calcd for C26H42N2O5: 462.62. The above product will be used as such for the Boc-deprotection. (step #5).

reactant | (S)-ethyl 3-amino-3-(3,5-di-tert-butylphenyl)propionate hydrochloride | 0.33 mmol, 112.0 mg | Cl.N[C@@H](CC(=O)OCC)C1=CC(=CC(=C1)C(C)(C)C)C(C)(C)C
reactant | Boc-Gly-Osu | 0.35 mmol, 95.0 mg | CC(C)(C)OC(=O)NCC(=O)ON1C(=O)CCC1=O | C11H16N2O6
reactant | triethylamine | 0.45 mmol, 62 μL | C(C)N(CC)CC | C6H15N
solvent | DMF | CN(C)C=O | C3H7NO
product | (S)-ethyl 3-(2-((tert-butoxycarbonyl)amino)acetamido)-3-(3,5-di-tert-butylphenyl)propanoate | 163.4 mg | C(C)(C)(C)OC(=O)NCC(=O)N[C@@H](CC(=O)OCC)C1=CC(=CC(=C1)C(C)(C)C)C(C)(C)C | C26H42N2O5
